US09145402B2
A suspension of 2-methoxy-4-(methylsulfonyl)-1-nitrobenzene (0.175 g, 0.76 mmol) and palladium on carbon (10 wt %, 0.10 g) in ethanol (10 mL) was stirred under hydrogen at one atmosphere pressure for 18 hours. The reaction was filtered through celite and concentrated to give 2-methoxy-4-(methylsulfonyl)aniline (0.15 g, 92%).

reactant | 2-methoxy-4-(methylsulfonyl)-1-nitrobenzene | 0.76 mmol, 0.175 g | COC1=C(C=CC(=C1)S(=O)(=O)C)[N+](=O)[O-] | C8H9NO5S
catalyst | palladium on carbon | 0.10 g | [Pd] | Pd
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-methoxy-4-(methylsulfonyl)aniline | 0.15 g, 92% | COC1=C(N)C=CC(=C1)S(=O)(=O)C | C8H11NO3S
